US05559132
N-[4-(4-Acetamidopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide;
N-[2-(3,4-Dichlorophenyl)-4-[4-(H-ethylacetamido)-piperidino]butyl]-H-methylbenzamide; N-[4-[4-(N-Butylacetamido)-piperidino]-2-(3,4-dichloro-phenyl)butyl]-N-methylbenzamide; N-[4-[4-(N-Cyclohexylacetamido)piperidino]-2-(3,4-dichlorophenyl)-butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-hexylacetamido)-piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-methylacetamido)-piperidino]butyl]-N-methylbenzamide; N-[4-[4-(N-Allylacetamido)-piperidino]-2-(3,4-dichloro-phenyl)butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-propylacetamido)-piperidino]-butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-isopropylacetamido)piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylpropionamido)piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylbutyramido)-piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylisobutyramido)-piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyltrifluoroacetamido)piperidino]-butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyl-N'-methylureido)-piperidino]butyl]-N-methylbenzamide; N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyl-N',N'-dimethyl-ureido)piperidino]butyl]-N-methylbenzamide; or N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylformamido)-piperidino]butyl]-N-methylbenzamide; in either the racemic form or as the (S)-enantiomeror;

reactant | N-[4-[4-(N-Butylacetamido)-piperidino]-2-(3,4-dichloro-phenyl)butyl]-N-methylbenzamide | C(CCC)N(C(C)=O)C1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C29H39Cl2N3O2
reactant | N-[4-[4-(N-Cyclohexylacetamido)piperidino]-2-(3,4-dichlorophenyl)-butyl]-N-methylbenzamide | C1(CCCCC1)N(C(C)=O)C1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C31H41Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-hexylacetamido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C)=O)CCCCCC | C31H43Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-methylacetamido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C)=O)C | C26H33Cl2N3O2
reactant | N-[4-[4-(N-Allylacetamido)-piperidino]-2-(3,4-dichloro-phenyl)butyl]-N-methylbenzamide | C(C=C)N(C(C)=O)C1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C28H35Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-propylacetamido)-piperidino]-butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C)=O)CCC | C28H37Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-isopropylacetamido)piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C)=O)C(C)C | C28H37Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylpropionamido)piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(CC)=O)CC | C28H37Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylbutyramido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(CCC)=O)CC | C29H39Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylisobutyramido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C(C)C)=O)CC | C29H39Cl2N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyltrifluoroacetamido)piperidino]-butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C(F)(F)F)=O)CC | C27H32Cl2F3N3O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyl-N'-methylureido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(=O)NC)CC | C27H36Cl2N4O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethyl-N',N'-dimethyl-ureido)piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(=O)N(C)C)CC | C28H38Cl2N4O2
reactant | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-ethylformamido)-piperidino]butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C=O)CC | C26H33Cl2N3O2
product | N-[4-(4-Acetamidopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | C(C)(=O)NC1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C25H31Cl2N3O2
